US08809324B2
2-Phenylhexahydro-2,5-methanopentalen-3a-carboxylic acid (50 g) was dissolved in t-butanol (1 l), and triethylamine (51 g) was added to this solution. Diphenylphosphoryl azide (56 g) was added in portions at room temperature. The reaction was stirred first at room temperature and then at reflux. After removal of the t-butanol, the residue was taken up in water (800 ml). The precipitated solids were filtered off and washed repeatedly with water. After drying under reduced pressure, the solids were taken up in tert-butyl methyl ether. This forms a solid, which was filtered off. The filtrate was concentrated fully under reduced pressure and then stirred with diisopropyl ether. The solids were filtered off with suction and washed with a mixture of diisopropyl ether and n-heptane. After drying, (2-phenylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester (83.9 g) was obtained.

reactant | 2-Phenylhexahydro-2,5-methanopentalen-3a-carboxylic acid | 50 g | C1(=CC=CC=C1)C12CC3CC(CC3(C1)C(=O)O)C2 | C16H18O2
reactant | triethylamine | 51 g | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphoryl azide | 56 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 1 l | C(C)(C)(C)O | C4H10O
product | (2-phenylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester | 83.9 g | C(C)(C)(C)OC(NC12CC3(CC2CC(C1)C3)C3=CC=CC=C3)=O | C20H27NO2
